US07256211B1
3-tert-butyl 4-methyl (4R)-2,2-dimethyl-1,3-oxazolidine-3,4-dicarboxylate
Under atmosphere of argon, D-serine.methylester (284 g) and di-tert-butyl di-carbonate (400 g) were dissolved in acetonitrile (2000 mL) and the mixture was added by triethylamine (255 mL) keeping the temperature inside from 6 to 1° C. under icing down and stirred for an hour and a half at room temperature. The mixture was filtrated to defecate triethylamine chloride and then the mother water was concentrated. The obtained residue was dissolved in ethyl acetate (1500 mL), washed with water (1000 mL) and saturated brine (1000 mL) and the organic layer was dried over a sodium sulfate, filtrated and concentrated. Under atmosphere of argon, the obtained residue (380 g) was added by acetone (3000 mL) and 2,2-dimethoxypropane (1800 mL), additionally added by boron trifuloride.diethylether complex (19.3 mL) and stirred for an hour and a half at room temperature. The mixture was concentrated and the residue was dissolved in ethyl acetate (1500 mL) and washed with saturated sodium hydrogen carbonate (100 mL), water (1000 mL) and saturated brine (1000 mL). The oragnic layer was dried over a sodium sulfate, filtrated and then concentrated to give the title compound (437 g) having the following physical data, which was used for the next reaction without purification.

reactant | D-serine | N[C@H](CO)C(=O)O | C3H7NO3
reactant | di-tert-butyl di-carbonate | 400 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
reactant | triethylamine | 255 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2000 mL | C(C)#N | C2H3N
product | 3-tert-butyl 4-methyl (4R)-2,2-dimethyl-1,3-oxazolidine-3,4-dicarboxylate | 437 g | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C(=O)OC)C | C12H21NO5
